// Single-Ended Operational Amplifier Characterization Testbench

simulator lang=spectre
global 0

include "./op.scs"

parameters a0=1 fin=1k vi=0 vcm=0 vo=0 vid=0 vicm=0

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

VSUPP (VDD CM)  vsource dc=vdd/2 type=dc
VSUPN (CM  VSS) vsource dc=vdd/2 type=dc
IREF  (VDD B)   isource dc=i0    type=dc
VCM   (CM  0)   vsource dc=0     type=dc

DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0  INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL             OUT)   switch position=1

IPRB0 (FBA FBB)       iprobe
FBNET (FBA CM OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid \
                      val0=-vs/2 val1=vs/2 period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine ampl=a0 freq=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM) vsource  dc=vo type=dc
L2 (OFI OF) dcfeed   l=1u
R2 (OFL CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 temp=27   \
                         tnom=27 homotopy=all gmin=1e-12 rforce=1           \
                         save=selected dc_pivot_check=yes scale=scl

// save DUT.M*.m1:gm        \
//   DUT.M*.m1:gds       \
//   DUT.M*.m1:id        \
//   DUT.M*.m1:gmoverid  \
//   DUT.M*.m1:fug       \
//   DUT.M*.m1:vdsat     \
//   DUT.M*.m1:vgs       \
//   DUT.M*.m1:vds       \
//   DUT.M*.m1:vbs       \
//   DUT.M*.m1:gmb       \
//   DUT.M*.m1:vth       \
//   DUT.M*.m1:self_gain \
    
save DUT.X DUT.Y DUT.Z DUT.B DUT.CM DUT:O DUT:VDD DUT:VSS \
     INN INP OUT OUT_IDEAL VDD VSS

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=0.9 method=statistics nsigma=1 title="dcmatch" \
                         variations=mismatch where=rawfile prevoppoint=yes

stb stb start=1 stop=100G probe=IPRB0 localgnd=0 dec=50 title="stb"

tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE             \
               separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vdd*0.1 stop=vdd*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no

ac ac freq=1 param=vicm start=-vdd stop=vdd lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vdd/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vdd/2
dc4 dc title="dc4"
